US07642263B2
5-[(3-{[(1S,2S)-2-Hydroxy-1-methylpropyl]oxy}-5-{[(1-methyl-1H-pyrazol-3-yl)amino]carbonyl}phenyl)oxy]pyrazine-2-carboxylic acid (1:1)
Lithium hydroxide monohydrate (38 mg, 0.88 mmol) in water (3 mL) was added to methyl 5-[(3-{[(1R,2R)-2-hydroxy-1-methylpropyl]oxy}-5-{[(1-methyl-1H-pyrazol-3-yl)amino]carbonyl}phenyl)oxy]pyrazine-2-carboxylate and methyl 5-[(3-{[(1S,2S)-2-hydroxy-1-methylpropyl]oxy}-5-{[(1-methyl-1H-pyrazol-3-yl)amino]carbonyl}phenyl)oxy]pyrazine-2-carboxylate (1:1) (0.26 g, 0.59 mmol) in THF (6 mL) and the mixture stirred at RT for 72 hours. The THF was removed in vacuo and the aqueous residue adjusted to pH3 with citric acid, then extracted into ethyl acetate, washed with water (30 mL), brine (30 mL), dried (MgSO4), filtered and the solvent removed in vacuo to give the desired compound as a white solid (0.16 g).

reactant | Lithium hydroxide monohydrate | 0.88 mmol, 38 mg | O.[OH-].[Li+]
reactant | methyl 5-[(3-{[(1R,2R)-2-hydroxy-1-methylpropyl]oxy}-5-{[(1-methyl-1H-pyrazol-3-yl)amino]carbonyl}phenyl)oxy]pyrazine-2-carboxylate | O[C@@H]([C@@H](C)OC=1C=C(C=C(C1)C(=O)NC1=NN(C=C1)C)OC=1N=CC(=NC1)C(=O)OC)C | C21H23N5O6
reactant | methyl 5-[(3-{[(1S,2S)-2-hydroxy-1-methylpropyl]oxy}-5-{[(1-methyl-1H-pyrazol-3-yl)amino]carbonyl}phenyl)oxy]pyrazine-2-carboxylate | 0.59 mmol, 0.26 g | O[C@H]([C@H](C)OC=1C=C(C=C(C1)C(=O)NC1=NN(C=C1)C)OC=1N=CC(=NC1)C(=O)OC)C | C21H23N5O6
solvent | water | 3 mL | O | H2O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 5-[(3-{[(1S,2S)-2-Hydroxy-1-methylpropyl]oxy}-5-{[(1-methyl-1H-pyrazol-3-yl)amino]carbonyl}phenyl)oxy]pyrazine-2-carboxylic acid | 0.16 g | O[C@H]([C@H](C)OC=1C=C(C=C(C1)C(=O)NC1=NN(C=C1)C)OC=1N=CC(=NC1)C(=O)O)C | C20H21N5O6
